US06982348B2
N-((1RS,2SR)-2-(4-fluorophenyl)-2-hydroxy-1-((4-(trifluoromethyl)phenyl)methyl)ethyl)-1-naphthalenesulfonamide
To a solution of (1RS,2SR)-1-(4-fluorophenyl)-1-hydroxy-3-(4-(trifluoromethyl)phenyl)-2-propylamine hydrochloride (150 mg, 0.43 mmol) in ethyl acetate (5 ml) were added 1-naphthalenesulfonyl chloride (107 mg, 0.47 mmol) and saturated aqueous sodium hydrogen carbonate (5 ml) and the mixture was stirred overnight at room temperature. The reaction solution was diluted with water (50 ml) and extracted with ethyl acetate (50 ml×2). The extract was washed with saturated brine, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=4:1). Recrystallization from ethyl acetate-hexane gave the title compound (109 mg, 50%).

reactant | (1RS,2SR)-1-(4-fluorophenyl)-1-hydroxy-3-(4-(trifluoromethyl)phenyl)-2-propylamine hydrochloride | 0.43 mmol, 150 mg | Cl.FC1=CC=C(C=C1)C(C(CC1=CC=C(C=C1)C(F)(F)F)N)O
reactant | 1-naphthalenesulfonyl chloride | 0.47 mmol, 107 mg | C1(=CC=CC2=CC=CC=C12)S(=O)(=O)Cl | C10H7ClO2S
reactant | sodium hydrogen carbonate | 5 ml | C(O)([O-])=O.[Na+]
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 50 ml | O | H2O
product | N-((1RS,2SR)-2-(4-fluorophenyl)-2-hydroxy-1-((4-(trifluoromethyl)phenyl)methyl)ethyl)-1-naphthalenesulfonamide | 109 mg, 50% | FC1=CC=C(C=C1)C(C(CC1=CC=C(C=C1)C(F)(F)F)NS(=O)(=O)C1=CC=CC2=CC=CC=C12)O | C26H21F4NO3S
